US07446204B2
Triphosgene was added in one portion to a solution of 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenylamine (100 mg, 0.235 mmol) and triethylamine (60 μL) in dry toluene (1.5 mL) at 70° C. under nitrogen. Stirring was continued at this temperature for 4 h, then allowed to cool to room temperature, diluted with diethyl ether (10 mL) and filtered through a Pall Life robotic filter funnel (1.2 mm Versapor). The filtrate was concentrated in vacuo to give 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))benzeneisocyanate (ca. 100 mg) as a colorless oil (IR: N═C═O stretch at 2261 cm−1). N-(2-aminoethyl)(tert-butoxy)-N-methyl carboxamide (90 μL, 0.4 mmol) was added to a stirred solution of 4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))benzeneisocyanate (90 mg, 0.2 mmol) and triethylamine (100 μL) in CH2Cl2 (2 mL) and stirring was continued under nitrogen for 18 h. The mixture was applied to an amino bond elute cartridge (5 g) eluting with diethyl ether, then diethyl ether:ethyl acetate (1:1) then ethyl acetate to give ({2-[(tert-butoxy)-N-methylcarbonylamino]ethyl}amino)-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]carboxamide as a cream foam (48 mg, 38% yield). LCMS (method B): 2.61 min, 627.0 (M+H)+. ({2-[(tert-butoxy)-N-methylcarbonylamino]ethyl}amino)-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]carboxamide was dissolved in CH2Cl2 (0.5 mL) and trifluoroacetic acid (0.5 mL) and stirring was continued for 30 min. The solvent was evaporated and the resulting mixture was directly applied to an amino bond elute cartridge (2 g) eluting with diethyl ether, then ethyl acetate to give the free base. This was dissolved in methanol (1 mL) and hydrochloric acid (1 M, 2 mL) was added. The resulting mixture was concentrated in vacuo to leave a gum which was triturated with diethyl ether to give {[2-(methylamino)ethyl]amino}-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]carboxamide dihydrochloride (38 mg, 87% yield) as a white solid. LCMS (method A): 6.97 min, 527.3 (M+H)+; 1H NMR (D6-DMSO) δ 10.85 (br s, 1H), 8.91 (s, 1H), 8.73 (br s, 2H), 7.84 (td, J=10.7, 7.7 Hz, 1H), 7.64 (m, 2H), 7.60 (dt, J=11.0, 7.9 Hz, 1H), 7.24 (d, J=2.2 Hz, 1H), 7.18 (dd, J=8.3 Hz, 2.2 Hz, 1H,), 7.10 (m, 2H), 7.00 (d, J=8.3 Hz, 1H), 6.58 (t, J=5.9 Hz, 1H), 4.28 (d, J=5.0 Hz, 2H), 3.38 (m, 4H), 3.07 (m, 2H), 2.97 (m, 2H), 2.91 (m, 1H), 2.55 (t, J=5.4 Hz, 3H), 2.21 (s, 3H), 2.00 (m, 2H), 1.84 (d, J=13.7 Hz, 2H).

reactant | ({2-[(tert-butoxy)-N-methylcarbonylamino]ethyl}amino)-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]carboxamide | C(C)(C)(C)ON(C(=O)C)CCNC(=O)NC1=CC(=C(C=C1)C)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | C34H41F3N4O4
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 1 M, 2 mL | Cl | ClH
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | {[2-(methylamino)ethyl]amino}-N-[4-methyl-3-(1-{[4-(2,4,5-trifluorophenoxy)phenyl]methyl}(4-piperidyl))phenyl]carboxamide dihydrochloride | 38 mg, 87% yield | Cl.Cl.CNCCNC(=O)NC1=CC(=C(C=C1)C)C1CCN(CC1)CC1=CC=C(C=C1)OC1=C(C=C(C(=C1)F)F)F | InChI=1S/C29H33F3N4O2.2ClH/c1-19-3-6-22(35-29(37)34-12-11-33-2)15-24(19)21-9-13-36(14-10-21)18-20-4-7-23(8-5-20)38-28-17-26(31)25(30)16-27(28)32;;/h3-8,15-17,21,33H,9-14,18H2,1-2H3,(H2,34,35,37);2*1H
